** Generated for: hspiceD
** Generated on: Jan  5 20:45:56 2020
** Design library name: PhasedArray_WB_copy
** Design cell name: BPF6_10G_2BITS
** Design view name: schematic


.TEMP 25.0
.OPTION
+    ARTIST=2
+    INGOLD=2
+    PARHIER=LOCAL
+    PSF=2


** Library name: PhasedArray_WB_copy
** Cell name: res_24K
** View name: schematic
.subckt res_24K t1 t2 vss
xr4 t2 net05 vss rppolywo_rf l=8e-6 w=500e-9 m=1 
xr2 net06 net05 vss rppolywo_rf l=8e-6 w=500e-9 m=1 
xr1 net06 net6 vss rppolywo_rf l=8e-6 w=500e-9 m=1 
xr0 t1 net6 vss rppolywo_rf l=8e-6 w=500e-9 m=1 
.ends res_24K
** End of subcircuit definition.

** Library name: PhasedArray_WB_copy
** Cell name: capbank_gp_lowC_noLSB_9u_2BITS
** View name: schematic
.subckt capbank_gp_lowC_noLSB_9u_2BITS b<3> b<2> b<1> b<0> left right vdd vss
xc3 right net3 vss mimcap_woum_sin_rf lt=9e-6 wt=9e-6 lay=7 m=2 
xc2 left net1 vss mimcap_woum_sin_rf lt=9e-6 wt=9e-6 lay=7 m=2 
xc1 right net4 vss mimcap_woum_sin_rf lt=9e-6 wt=9e-6 lay=7 m=1 
xc0 left net2 vss mimcap_woum_sin_rf lt=9e-6 wt=9e-6 lay=7 m=1 
xm1 net1 b1_buf net3 vss nmos_rf lr=60e-9 wr=2e-6 nr=20 sigma=1 m=2 
xm0 net2 b0_buf net4 vss nmos_rf lr=60e-9 wr=2e-6 nr=20 sigma=1 m=1 
m44 net0155 net0120 vss vss nch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m40 net0120 b<3> vss vss nch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m37 net0159 net0104 vss vss nch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m36 net0158 net0105 vss vss nch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m35 net0157 net0106 vss vss nch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m31 net0104 b<2> vss vss nch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m30 net0105 b<1> vss vss nch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m29 net0106 b<0> vss vss nch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m18 b3_buf b3_inv vss vss nch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m16 b3_inv b<3> vss vss nch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m15 b2_inv b<2> vss vss nch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m13 b2_buf b2_inv vss vss nch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m11 b1_buf b1_inv vss vss nch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m9 b1_inv b<1> vss vss nch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m7 b0_buf b0_inv vss vss nch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m4 b0_inv b<0> vss vss nch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m42 net0155 net0120 vdd vdd pch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m38 net0120 b<3> vdd vdd pch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m34 net0159 net0104 vdd vdd pch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m33 net0158 net0105 vdd vdd pch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m32 net0157 net0106 vdd vdd pch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m28 net0104 b<2> vdd vdd pch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m27 net0105 b<1> vdd vdd pch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m26 net0106 b<0> vdd vdd pch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m19 b3_inv b<3> vdd vdd pch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m17 b3_buf b3_inv vdd vdd pch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m14 b2_buf b2_inv vdd vdd pch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m12 b2_inv b<2> vdd vdd pch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m10 b1_buf b1_inv vdd vdd pch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m8 b1_inv b<1> vdd vdd pch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m6 b0_buf b0_inv vdd vdd pch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
m5 b0_inv b<0> vdd vdd pch l=60e-9 w=1e-6 m=1 nf=1 sd=200e-9 ad=175e-15 as=175e-15 pd=2.35e-6 ps=2.35e-6 nrd=100e-3 nrs=100e-3 sa=175e-9 sb=175e-9 sca=0 scb=0 scc=0
xi16 b1_inv net3 vss res_24K
xi17 b1_inv net1 vss res_24K
xi18 b0_inv net2 vss res_24K
xi19 b0_inv net4 vss res_24K
.ends capbank_gp_lowC_noLSB_9u_2BITS
** End of subcircuit definition.

** Library name: PhasedArray_WB_copy
** Cell name: BPF6_10G_2BITS
** View name: schematic
xc4 outm vtune vss moscap_rf_nw wr=2e-6 lr=500e-9 br=4 gr=4 m=1
xc0 outp vtune vss moscap_rf_nw wr=2e-6 lr=500e-9 br=4 gr=4 m=1
xm20 outp outm vss vss nmos_rf lr=120e-9 wr=2.5e-6 nr=10 sigma=1 m=1 
xm19 outm outp vss vss nmos_rf lr=120e-9 wr=2.5e-6 nr=10 sigma=1 m=1 
xm2 outp inm vss vss nmos_rf lr=120e-9 wr=2.5e-6 nr=8 sigma=1 m=1 
xm8 outm inp vss vss nmos_rf lr=120e-9 wr=2.5e-6 nr=8 sigma=1 m=1 
xi5 dig_bpf<3> dig_bpf<2> dig_bpf<1> dig_bpf<0> outm outp vddsw vss capbank_gp_lowC_noLSB_9u_2BITS
xl4 outm outp vss vdd_bpf0p5 spiral_sym_ct_mu_z w=9e-6 nr=2 rad=35.5e-6 
.END
